US07622492B2
Triethylamine (518 μL, 3.7 mmol) was added dropwise to a cooled (0° C.) solution (1R,4R)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl chloride (418 mg, 1.95 mmol) of in 1,2-dichloroethane (3 mL) over 1 min. The reaction mixture was stirred for 5 min and then a solution of N′-(2-fluoro-5-trifluoromethyl-phenyl)-N-methyl-hydrazinecarboxylic acid tert-butyl ester (380 mg, 1.23 mmol) in 1,2-dichloroethane (6 mL) was added over 2 min. The reaction mixture was stirred at 0° C. for 15 min, at room temperature for 30 min, and then in an oil bath at 50° C. for 2 h. A solution of HCl in dioxane (4 M; 8 mL, 32 mmol) was added and the mixture was heated in an oil bath at 100° C. for 1 h and then allowed to cool to room temperature. Dichloromethane (100 mL) was added and the mixture was washed with 1:1 water/brine (20 mL), dried (magnesium sulfate), filtered, evaporated, and purified using an ISCO 40 g column, eluting with 20-50% ethyl acetate/hexanes. Fractions homogeneous for the product were evaporated, and then co-evaporated with ether and then petroleum ether. The residue was triturated with hexanes, and the solid was dried under high vacuum at 70° C. overnight and then at 85° C. for 1 h to give (4S,7R)-2-(2-fluoro-5-trifluoromethyl-phenyl)-1,7,8,8-tetramethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one (142 mg, 30%) as a light yellow solid. ES(+)-MS (M+H) 369.

reactant | Triethylamine | 3.7 mmol, 518 μL | C(C)N(CC)CC | C6H15N
reactant | (1R,4R)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl chloride | 1.95 mmol, 418 mg | C[C@@]12C(C([C@@H](CC1)C2(C)C)C(=O)Cl)=O | C11H15ClO2
reactant | N′-(2-fluoro-5-trifluoromethyl-phenyl)-N-methyl-hydrazinecarboxylic acid tert-butyl ester | 1.23 mmol, 380 mg | C(C)(C)(C)OC(=O)N(NC1=C(C=CC(=C1)C(F)(F)F)F)C | C13H16F4N2O2
reactant | HCl | Cl | ClH
reactant | dioxane | 32 mmol, 4 M, 8 mL | O1CCOCC1 | C4H8O2
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 6 mL | ClCCCl | C2H4Cl2
solvent | Dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (4S,7R)-2-(2-fluoro-5-trifluoromethyl-phenyl)-1,7,8,8-tetramethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one | 142 mg, 30% | FC1=C(C=C(C=C1)C(F)(F)F)N1N(C=2[C@@]3(CC[C@H](C2C1=O)C3(C)C)C)C | C19H20F4N2O
